US09168248B2
To a solution of 1-chloro-3-(methoxymethoxy)benzene (24 g, 136.74 mmol, 1.00 equiv, 98%) in THF (240 mL) was added TMP (21 g, 150.00 mmol, 1.10 equiv). To the above solution was added n-BuLi (61 mL, 1.10 equiv, 2.5 mol/L) dropwise with stirring at −75° C. over 30 min. After stirring for 2 h at −75° C., the resulting mixture was reacted with Ac2O (15.5 g, 148.92 mmol, 1.10 equiv, 98%) via dropwise addition with stirring at −75° C. over 30 min. The mixture was stirred for additional 30 min at room temperature, and then quenched by adding water. The resulting mixture was extracted with 2×300 mL of ethyl acetate. The combined organic layers was washed with H2O, dried over Na2SO4 and concentrated under vacuum to give 1-(2-chloro-6-(methoxymethoxy)phenyl)-ethanone as a yellow oil.

reactant | 1-chloro-3-(methoxymethoxy)benzene | 136.74 mmol, 24 g, 1.00 equiv | ClC1=CC(=CC=C1)OCOC | C8H9ClO2
reactant | n-BuLi | 2.5 mol/L, 61 mL, 1.10 equiv | [Li]CCCC
reactant | Ac2O | 148.92 mmol, 15.5 g, 1.10 equiv | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 240 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-6-(methoxymethoxy)phenyl)-ethanone | ClC1=C(C(=CC=C1)OCOC)C(C)=O | C10H11ClO3
